* C:\Projects\git\onlab\Digital_guitar_effect\pcb\simulations\input_stage_sim\AD1939_input_with_offset.asc
V1 -V 0 0
V2 +V 0 9
R2 N001 N003 5.7k
C1 N001 N003 120p
V3 N008 0 SINE(0 0.25 440) AC 1 Rser=10k
R3 N004 N001 5.7k
R4 N005 N004 5.7k
C2 N005 N004 120p
C3 N002 N001 4.7µ
R5 VIN+ N002 220
C4 N009 N005 4.7µ
R6 VIN- N009 220
C5 VIN+ VIN- 100p
XU1 N007 N003 +V -V N001 OP27
XU2 N010 N004 +V -V N005 OP27
R7 VIN- 0 100Meg
R8 VIN+ 0 100Meg
C7 0 VIN- 1n
C8 VIN+ 0 1n
C9 N006 N007 68n
C6 N006 0 220p
R10 N006 N008 100
V4 Vbias 0 9
R11 Vbias N007 1Meg
R12 N007 0 1Meg
R9 N010 0 1Meg
R13 N010 Vbias 1Meg
R14 NC_01 NC_02 5.7k
.tran 1
.lib ADI.lib
.backanno
.end
