* C:\git\BME\Digital_guitar_effect\pcb\simulations\input_stage_sim\AD1939_input_with_offset.asc
V1 -V 0 -9
V2 +V 0 9
R2 N002 N004 5.7k
C1 N002 N004 120p
V3 N009 0 SINE(0 0.25 440) AC 1 Rser=10k
R3 N005 N002 5.7k
R4 N006 N005 5.7k
C2 N006 N005 120p
R5 N003 N002 220
R6 N010 N006 220
C5 N003 N010 100p
XU1 N008 N004 +V -V N002 OP27
XU2 N012 N005 +V -V N006 OP27
C7 0 N010 1n
C8 N003 0 1n
C9 N007 N008 68n
C6 N007 0 220p
R10 N007 N009 100
V4 Vbias 0 3.3
R14 NC_01 NC_02 5.7k
XU4 Vbias N011 +V -V VIN- OP27
R1 N011 NC_03 5.7k
XU3 Vbias N001 +V -V VIN- OP27
R7 N001 NC_04 5.7k
R8 VIN- N001 5.7k
R9 VIN- N011 5.7k
R11 N008 0 1Meg
R12 Vbias N008 1Meg
R13 N012 Vbias 1Meg
R15 N012 0 1Meg
.tran 10m
.lib ADI.lib
.backanno
.end
