* C:\git\BME\Digital_guitar_effect\pcb\simulations\input_stage_sim\AD1939_input_with_offset.asc
V1 -V 0 -9
V2 +V 0 9
R2 N002 N004 5.7k
C1 N002 N004 120p
V3 N010 0 SINE(0 1 440) AC 1 Rser=1meg
R3 N005 N002 5.7k
R4 N006 N005 5.7k
C2 N006 N005 120p
R5 N003 N002 220
R6 N011 N006 220
C5 N003 N011 100p
XU1 Vbias N004 +V -V N002 OP27
XU2 Vbias2 N005 +V -V N006 OP27
C7 0 N011 1n
C8 N003 0 1n
C9 N009 Vbias 68n
C6 N009 0 220p
R10 N009 N010 100
V4 NC_01 0 3.3
XU3 Vbias N001 +V -V VIN- OP27
R7 N001 NC_02 5.7k
R8 VIN- N001 5.7k
R13 N012 N014 1Meg
R15 N012 0 1Meg
V5 N008 0 3.3
XU5 N013 N007 +V -V N007 OP2177
R1 N008 N013 1
R9 N013 0 270k
R14 Vbias 0 2Meg
XU4 N013 N015 +V -V N015 OP2177
R17 Vbias2 N015 2Meg
R11 Vbias N007 2Meg
.tran 10m
.lib ADI.lib
.lib ADI1.lib
.backanno
.end
